US07700595B2
N-[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl]-N′-phenylurea
Phenyl isocyanate (0.075 g, 0.63 mmol) was added to a stirred solution of 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine (0.025 g, 0.076 mmol) in 5 mL of ACN at room temperature. The reaction mixture was stirred for 3 hours and concentrated. The residue was purified by silica gel chromatography using 5-50% EtOAc/hexanes as eluent to provide 0.025 g of the title compound as a gray solid. HRMS (ESI, [M+H]+) 451.1310.

reactant | Phenyl isocyanate | 0.63 mmol, 0.075 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | 0.076 mmol, 0.025 g | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | N-[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl]-N′-phenylurea | 0.025 g | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)NC1=CC=CC=C1 | C27H19ClN4O
